Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Left thigh discomfort
 
Major Surgical or Invasive Procedure:
Intramedullary rod placement, left femur

 
History of Present Illness:
___ h/o Alzheimer's dementia, h/o non-Hodgkin's lymphoma s/p 
chemo, XRT, lymphadectomies (~ ___, recurrent R breast 
phyllodes tumor s/p rsxn, free flap reconstruction ___, with 
recurrence at R breast flap site s/p rsxn and removal of flap 
tissue ___  who presents with left thigh discomfort after a 
mechanical fall 2 weeks ago.  She presented to ___ 
where ___ CT showed 13.6 cm long soft tissue lesion within 
proximal to mid femur with extensive bony destruction and 
endosteal scalloping. >70% cortical loss.  Because, she was 
treated at ___ in past for Phyllodes tumor of breast, she wanted 
to be transferred here. 

She was seen by the breast surgery, orthopedic and orthopedic 
oncology service.  Given the extensive cortical involvement, she 
was considered a candidate for fixation, but requires additional 
workup (to determine whether the site was metastatic or 
primary). Also given risk of fracture, she is considered L 
touch-weight bearing on the left leg.   She denies groin, 
buttock, or radicular symptoms on either side.  Otherwise, no 
musculoskeletal pain.

On presentation to the floor, she was markedly agitated - 
insisting on leaving the hospital.  The son ___ present at 
bedside who has been able to calm her down.  

No reports of weight change, cough, hemoptysis, fevers or 
chills, GI or GU symptoms, melena, or hematochezia.  Last 
mammogram was ___ year ago.  
ROS: per HPI. A 10 pt review of sxs was otherwise negative.
 
Past Medical History:
Hypertension
Ovarian cyst and appendix resection after ex lap (___)
Biopsy of groin (___)
Breast biopsies ___ and then ___

 
Social History:
___
Family History:
Hypertension
 
Physical Exam:
GENERAL: Pleasant older woman, in no apparent distress. Son at
bedside.
EYES: PERRL. EOMI. Anicteric sclerae. 
ENT: Ears and nose without visible erythema, masses, or trauma.  
Posterior oropharynx without erythema or exudate, uvula midline.
CV: Regular rate and rhythm. Normal S1 S2, no S3, no S4. ___ SEM 
best heard at ___. No JVD.
PULM: Breathing comfortably on room air. Lungs clear to 
auscultation. No wheezes or crackles. Good air movement 
bilaterally. 
GI: Bowel sounds present. Abdomen non-distended, soft, 
non-tender to palpation. 
GU: No suprapubic fullness or tenderness to palpation.
EXTR: Tender mid left thigh. No lower extremity edema. Distal 
extremity pulses palpable throughout.
SKIN: No rashes, ulcerations, scars noted.
NEURO: Alert. Oriented to person, general situation, not always 
clear about situation, time, or place. Face symmetric. Gaze 
conjugate with EOMI. Speech fluent. Moves all limbs 
spontaneously. No tremors, asterixis, or other involuntary 
movements observed.  
PSYCH: Pleasant, cooperative. Follows commands, answer questions 
appropriately. Appropriate affect.
 
Pertinent Results:
Labs:
___ 07:15AM BLOOD WBC: 5.2 RBC: 4.69 Hgb: 14.2 Hct: 44.8
MCV: 96 MCH: 30.3 MCHC: 31.7* RDW: 12.3 RDWSD: 42.___ 
___ 07:15AM BLOOD Glucose: 99 UreaN: 20 Creat: 0.8 Na: 143
K: 4.2 Cl: 104 HCO3: 20* AnGap: 19* 
___ 07:15AM BLOOD Calcium: 10.0 Phos: 4.1 Mg: 2.0 

Micro:
___ Ucx neg

Images and studies:

Bone biopsy, left femur (___): Metastatic phyllodes tumor.

CXR Port (___): No acute cardiopulmonary process.  A
retrocardiac opacity may represent known hiatal hernia

L femur x-ray (___): Aggressive appearing permeative lytic
9.5 cm diaphyseal lesion in the proximal left femur with
associated periosteal reaction concerning for malignancy.  No
definite evidence of cortical breakthrough.

L humerus x-ray (___): No acute fracture or dislocation of
the left humerus.

___ 06:50AM BLOOD WBC-7.0 RBC-3.43* Hgb-10.2* Hct-31.6* 
MCV-92 MCH-29.7 MCHC-32.3 RDW-12.5 RDWSD-42.4 Plt ___
___ 07:25AM BLOOD WBC-7.7 RBC-3.43* Hgb-10.4* Hct-32.0* 
MCV-93 MCH-30.3 MCHC-32.5 RDW-12.7 RDWSD-43.8 Plt ___
___ 06:45AM BLOOD ___ PTT-27.7 ___
___ 07:25AM BLOOD Glucose-101* UreaN-18 Creat-0.7 Na-141 
K-4.4 Cl-102 HCO3-27 AnGap-12
___ 06:45AM BLOOD Glucose-120* UreaN-18 Creat-0.7 Na-144 
K-4.1 Cl-104 HCO3-24 AnGap-16
___ 07:25AM BLOOD Phos-2.9 Mg-1.9
 
Brief Hospital Course:
Ms. ___ of Alzheimer's, non-Hodgkin's lymphoma 
treated with chemotherapy and lymphadenectomies of the right 
axilla and inguinal regions with radiation (roughly ___, as 
well as recurrent right breast phyllodes tumor status post 
resection and free flap reconstruction (___) with recurrence at 
right breast flap site (pathology consistent with recurrent 
phyllodes tumor but with liposarcoma this differentiation) with 
resection and removal of flap tissue but no adjuvant radiation 
(___), who presents with left thigh discomfort after a 
mechanical fall 2 weeks ago and lytic lesion of the left femoral 
diaphysis.

BRIEF HOSPITAL COURSE BY PROBLEM

# Left femur metastatic phyllodes tumor lesion
Orthopedic oncology was consulted early on and guided the 
work-up. ___ CT torso showed no evidence of cancer. However, 
pathology for the subsequent bone biopsy diagnosed metastatic 
phyllodes tumor. Given extensive cortical involvement that 
risked fracture, she subsequently underwent prophylactic 
fixation of femur with a metal rod on ___. While she was still 
in the hospital, breast oncology was consulted to begin planning 
potential treatment and she will follow-up with this service 
after discharge. Dr. ___ ortho oncology and Dr. 
___ medical oncology (sarcoma specialist) spoke with 
Ms. ___ and ___ 3 children about this plan.  They also 
discussed outpatient postoperative radiation (likely at ___ 
___, outpatient PET scan, and possible initiation of 
Zometa or other antiresorptive agent as an outpatient. Clinic 
phone numbers are in discharge paperwork. She needs to f/u with 
ortho in 2 weeks from the time of her procedure (___).

# Alzheimer's dementia
# Agitation/delirium
She has moderately advanced dementia and could at times become 
quite agitated, especially in the evenings. The family felt 
strongly about trying to avoid the use of restraints and her son 
or daughter were with her almost ___ to help calm her down and 
redirect her, which was invaluable. During the hospitalization 
she was continued on her home Named and ___. 

# Hypothyroidism
She was continued on her home levothyroxine. 

# Hypercholesterolemia 
She was continued on a statin like that which she takes at home.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Levothyroxine Sodium 25 mcg PO DAILY 
3. Namenda XR (MEMAntine) 28 mg oral DAILY 
4. Exelon (rivastigmine) 4.6 mg/24 hr transdermal DAILY 

 
Discharge Medications:
1.  Acetaminophen 650 mg PO TID  
2.  Calcium Carbonate 500 mg PO QID:PRN dyspepsia  
3.  Docusate Sodium 100 mg PO BID  
4.  Enoxaparin Sodium 40 mg SC QPM  
5.  Senna 8.6 mg PO BID:PRN Constipation - First Line  
6.  TraMADol 25 mg PO Q6H:PRN pain 
goal to wean.  
RX *tramadol 50 mg 0.5 (One half) tablet(s) by mouth every ___ 
hours Disp #*6 Tablet Refills:*0 
7.  Atorvastatin 10 mg PO QPM  
8.  Exelon (rivastigmine) 4.6 mg/24 hr transdermal DAILY  
9.  Levothyroxine Sodium 25 mcg PO DAILY  
10.  Namenda XR (MEMAntine) 28 mg oral DAILY  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Metastatic phyllodes tumor
L.femur

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
Mental Status: Confused - sometimes.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted after experiencing left thigh discomfort and 
being found on imaging to have changes to your left femur.
After being admitted you underwent a bone biopsy that showed you 
had metastatic phyllodes tumor to your left femur. To protect 
you from fracture, you had a rod placed in the femur to 
reinforce it. And you were referred to breast oncology and 
orthopedic oncology with whom you will continue to work after 
discharge in regards to potential chemotherapy and radiation.

Sincerely,
Your ___ Team
 
Followup Instructions:
___